US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-(pyridin-2-ylmethyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 32, making variations as required to replace 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-(pyridin-2-ylmethyl)imidazolidin-1-yl)thiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a colorless solid in 12% yield: mp 58-61° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.56-8.48 (m, 3H), 7.69-7.64 (m, 2H), 7.31-7.18 (m, 3H), 6.21 (br s, 1H), 4.58 (s, 2H), 4.56 (d, J=6.0 Hz, 2H), 4.09 (t, J=9.0 Hz, 2H), 3.62 (t, J=9.0 Hz, 2H), 2.59 (s, 3H); MS (ES+) m/z 409.2 (M+1).

reactant | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C17H14ClN3O3S2
reactant | 4-methyl-2-(2-oxo-3-(pyridin-2-ylmethyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=NC=CC=C1)=O | C14H14N4O3S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 4-methyl-2-(2-oxo-3-(pyridin-2-ylmethyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 12% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C(N(CC1)CC1=NC=CC=C1)=O | C20H20N6O2S
